US06982348B2
To a solution of (4RS,5SR)-4-[3-(1,1-difluoroethyl)benzyl]-5-(4-fluorophenyl)-1,3-oxazolidin-2-one (3.83 g, 12.5 mmol) in ethanol (100 ml) was added 8N aqueous sodium hydroxide solution (7.8 ml, 39.0 mmol), and the mixture was heated under reflux for 5 hrs. After completion of the reaction, the mixture was diluted with water, and extracted with ethyl acetate. The organic layers were combined, washed with saturated brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was recrystallized from (hexane-ethyl acetate) to give (1RS,2SR)-2-amino-3-[3-(1,1-difluoroethyl)phenyl]-1-(4-fluorophenyl)-1-propanol (3.08 g, 88%) as colorless crystals.

reactant | (4RS,5SR)-4-[3-(1,1-difluoroethyl)benzyl]-5-(4-fluorophenyl)-1,3-oxazolidin-2-one | 12.5 mmol, 3.83 g | FC(C)(F)C=1C=C(CC2NC(OC2C2=CC=C(C=C2)F)=O)C=CC1 | C18H16F3NO2
reactant | sodium hydroxide | 39.0 mmol, 8N, 7.8 ml | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | (1RS,2SR)-2-amino-3-[3-(1,1-difluoroethyl)phenyl]-1-(4-fluorophenyl)-1-propanol | 3.08 g, 88% | NC(C(O)C1=CC=C(C=C1)F)CC1=CC(=CC=C1)C(C)(F)F | C17H18F3NO
